US04863920
20.2 g (65.5 mmol) of 7-chloro-3-[(Z)-2-chlorovinyl]-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepine--one was heated to boiling under reflux for 5 hours together with 11.7 ml (78.5 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene in 200 ml of N,N-dimethylformamide. The reaction mixture was subsequently poured into 800 ml of water and extracted four time with methylene chloride. The organic extracts were washed four times with water, dried over magnesium sulphate and evaporated. After chromatography of the residue on silica gel while eluting with ethyl acetate and two successive crystallizations from acetonitrile and from ethyl acetate there was obtained 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 201°-202°.

reactant | 7-chloro-3-[(Z)-2-chlorovinyl]-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepine--one | 65.5 mmol, 20.2 g | ClC1=CC=CC2=C1CN(CC=1N2C(NC1\C=C/Cl)=O)C | C14H13Cl2N3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 78.5 mmol, 11.7 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | 800 ml | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#C)C)=O | C14H10ClN3O
